US08487108B2
Step 5. 2-(benzyloxycarbonylamino)-3-(1-methylcyclohexyl)propyl methanesulfonate
A mixture of 0.3607 g (1.18 mmol) of benzyl 1-hydroxy-3-(1-methylcyclohexyl)propan-2-ylcarbamate, 0.4 mL (2.87 mmol, 2.43 equiv) of triethylamine, 0.1 mL (1.29 mmol, 1.09 equiv) of methanesulfonyl chloride in CH2Cl2 (10 mL) was stirred at 0° C. for 1.5 h. The reaction mixture was quenched with ice water, extracted with CH2Cl2, washed with aqueous NaHCO3, and dried over Na2SO4. After the solvent was removed in vacuo, the crude 2-(benzyloxycarbonylamino)-3-(1-methylcyclohexyl)propyl methanesulfonate was used directly in the next step without further purification. MS ESI +ve m/z 406 (M+Na).

reactant | benzyl 1-hydroxy-3-(1-methylcyclohexyl)propan-2-ylcarbamate | 1.18 mmol, 0.3607 g | OCC(CC1(CCCCC1)C)NC(OCC1=CC=CC=C1)=O | C18H27NO3
reactant | triethylamine | 2.87 mmol, 0.4 mL, 2.43 equiv | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.29 mmol, 0.1 mL, 1.09 equiv | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(benzyloxycarbonylamino)-3-(1-methylcyclohexyl)propyl methanesulfonate | CS(=O)(=O)OCC(CC1(CCCCC1)C)NC(=O)OCC1=CC=CC=C1 | C19H29NO5S
